US07732604B2
A mixture of DME (3.0 mL) and 1 M aqueous Na2CO3 (0.88 mL) was degassed by bubbling in Argon for 10 minutes. The mixture was transferred via syringe to a vial containing 6-((6-bromo-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline (100 mg, 0.29 mmol), 2-fluorophenylboronic acid (45 mg, 0.32 mmol) and Pd(dppf)2Cl2.CH2Cl2 (6.2 mg, 0.01 mmol). The vial was capped and heated to 80° C. for 3.5 hours. The crude reaction mixture was diluted with dichloromethane then washed with water. The dichloromethane was dried over Na2SO4, filtered and concentrated by rotary evaporation. The residue was purified by column chromatography using gradient elution with ethyl acetate and dichloromethane to afford 6-((6-(2-fluorophenyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline (77 mg, 74%).

reactant | DME | 3.0 mL | COCCOC | C4H10O2
reactant | Na2CO3 | 1 M, 0.88 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 6-((6-bromo-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline | 0.29 mmol, 100 mg | BrC1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C14H9BrN6
reactant | 2-fluorophenylboronic acid | 0.32 mmol, 45 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Pd(dppf)2Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | CH2Cl2 | 0.01 mmol, 6.2 mg | C(Cl)Cl | CH2Cl2
product | 6-((6-(2-fluorophenyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline | 77 mg, 74% | FC1=C(C=CC=C1)C1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C20H13FN6
